US09359340B2
To a solution of 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate (1.15 g, 5.4 mmol) in NMP (4 mL) and TEA (0.5 mL) was added 1-Boc-piperazine (1.05 g, 5.64 mmol). The mixture was microwaved at 100° C. for 30 minutes and then diluted with ethyl acetate (200 mL) and washed with water (6×100 mL). The organic phase was dried and concentrated. The residue was subject to chromatography on silica gel, eluting by hexanes/ethyl acetate (2:1-1:1) to afford the tert-butyl 4-(7-acetoxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (1.47 g, 75%). 1H NMR (CDCl3, 400 MHz) δ 8.56 (s, 1H), 5.99-5.96 (m, 1H), 3.78-3.73 (m, 2H), 3.53-3.50 (m, 2H), 3.15-3.07 (m, 1H), 2.99-2.92 (m, 1H), 2.63-2.54 (m, 1H), 2.04-1.93 (m, 1H), 1.48 (s, 9H). MS (APCI+) [M+H] +363.

reactant | 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl acetate | 5.4 mmol, 1.15 g | C(C)(=O)OC1CCC2=C1N=CN=C2Cl | C9H9ClN2O2
reactant | 1-Boc-piperazine | 5.64 mmol, 1.05 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(7-acetoxy-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 1.47 g, 75% | C(C)(=O)OC1CCC2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O4
